US08975254B2
a) (S)-4-(1-(2-(1,3-dioxoisoindolin-2-yl)propyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile
2-Methyl-4-(1H-pyrazol-3-yl)benzonitrile (2.35 g, 12.2 mmol) was reacted with (S)-2-(1-bromopropan-2-yl)isoindoline-1,3-dione (3.61 g, 13.5 mmol) using the method of Example 27(a). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-100% EtOAc/heptane) to yield 1.15 g (25%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.59 (d, 3H), 2.47 (s, 3H), 4.41 (m, 1H), 4.83 (m, 2H), 6.46 (d, 1H), 7.39 (m, 2H), 7.47 (m, 2H), 7.69 (m, 2H), 7.78 (m, 2H).

reactant | 2-Methyl-4-(1H-pyrazol-3-yl)benzonitrile | 12.2 mmol, 2.35 g | CC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C11H9N3
reactant | (S)-2-(1-bromopropan-2-yl)isoindoline-1,3-dione | 13.5 mmol, 3.61 g | BrC[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
product | (S)-4-(1-(2-(1,3-dioxoisoindolin-2-yl)propyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile | 1.15 g, 25% | O=C1N(C(C2=CC=CC=C12)=O)[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C)C | C22H18N4O2
